US07491743B2
To a mixture of acetic acid (13.6 mL) and formaldehyde (0.340 mL, 4.5 mmol, 37% solution) under argon was added dimethyl amine (2.05 mL, 16.3 mmol., 40% solution). The reaction mixture was stirred for 10 min and then treated with 7-fluoroindole (540 mg, 4.0 mmol.). The resulting mixture was stirred at room temperature for ˜16 h. The reaction mixture was first neutralized with K2CO3 and then basified with NaOH (2N), and then extracted in ethyl acetate, washed with water, dried, and concentrated. Solid obtained was recrystallized from ethyl acetate and hexane to give (7-Fluoro-1H-indol-3-ylmethyl)dimethylamine (570 mg, 74%): mp 133-137° C., 1H NMR (500 MHz, CDCl3): 2.31 (s, 6H), 3.62 (s, 2H), 6.88-6.92 (dd, J=8.0 and 8.0 Hz, 1H), 7.00-7.04 (m, 1H), 7.16 (d, J=2.5 Hz, 1H), 7.46 (d, J=8.0 Hz, 1H), 8.34 (s, 1H).

reactant | formaldehyde | 4.5 mmol, 0.340 mL | C=O | CH2O
reactant | dimethyl amine | 16.3 mmol, 2.05 mL | CNC | C2H7N
reactant | 7-fluoroindole | 4.0 mmol, 540 mg | FC=1C=CC=C2C=CNC12 | C8H6FN
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | acetic acid | 13.6 mL | C(C)(=O)O | C2H4O2
product | (7-Fluoro-1H-indol-3-ylmethyl)dimethylamine | 570 mg, 74% | FC=1C=CC=C2C(=CNC12)CN(C)C | C11H13FN2
